US06525064B1
Chloropropanesulfonyl chloride (0.221 mL, 1.82 mmol) was added drop wise to a chilled (0° C.) solution of 1-(4-aminobutyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine (0.500 g, 1.82 mmol) in dichloromethane (10 mL). The reaction mixture was allowed to stir for 20 minutes after the addition was completed then triethylamine (0.245 mL, 2.51 mmol) was added drop wise. The reaction mixture was allowed to stir for 20 minutes after the addition was completed then it was poured into water. The layers were separated. The organic layer was washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (10 mL). 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.272 mL, 1.82 mmol) was added and the reaction mixture was allowed to stir overnight. The reaction mixture was poured into water and then extracted with chloroform (×3). The combined extracts were washed with water then with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide a yellowish oil. The oil was dissolved in acetonitrile and then concentrated under reduced pressure to provide a yellowish white solid. This material was recrystallized from isopropanol to provide 0.53 g of 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a yellow orange solid, m.p. 155.1-161.2° C. Analysis: Calculated for C18H29N5O2S: % C, 56.97; % H, 7.70; % N, 18.45; Found: % C, 56.61; % H, 7.77; % N, 18.14. 1H NMR (300 MHz, DMSO-d6) δ 5.67 (s, 2H), 4.21 (apparent t, J=7.5 Hz, 2H), 3.2-3.08 (m, 4H), 2.92 (t, J=6.5 Hz, 2H), 2.77 (t, J=7.5 Hz, 2H), 2.37 (s, 3H), 2.30 (s, 3H), 2.19 (quintet, J=6.7 Hz, 2H), 1.78 (sextet, J=7.4 Hz, 2H), 1.73-1.55 (m, 4H), 1.00 (t, J=7.4 Hz, 3H); MS(CI) m/e 380.2117 (380.2120 calcd for C18H29N5O2S, M+H).

reactant | Chloropropanesulfonyl chloride | 1.82 mmol, 0.221 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 1-(4-aminobutyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.82 mmol, 0.500 g | NCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C15H25N5
reactant | triethylamine | 2.51 mmol, 0.245 mL | C(C)N(CC)CC | C6H15N
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 1.82 mmol, 0.272 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.53 g | O=S1(N(CCC1)CCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC)=O | C18H29N5O2S
